US08044213B2
A mixture of 0.250 g (1 mmole) of 2-amino-4-phenyl-thiazole-5-carboxylic acid ethyl ester (V.1), 0.215 g (1 mmole) of 4-dimethoxymethyl-2-fluoro-1-nitro-benzene, 0.488 g (1.5 mmole) of cesium carbonate and 5 mL of dimethylformamide was heated at 100 degrees overnight. The cooled mixture was diluted with 30 mL of water and then extracted three times with 20 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate-hexanes (gradient 0:100-10:90) to give 0.240 g of 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (VIA a) as an orange solid.

reactant | 2-amino-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 1 mmole, 0.250 g | C(C)OC(=O)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H12N2O2S
reactant | 4-dimethoxymethyl-2-fluoro-1-nitro-benzene | 1 mmole, 0.215 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])F)OC | C9H10FNO4
reactant | cesium carbonate | 1.5 mmole, 0.488 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.240 g | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)C(OC)OC)[N+](=O)[O-])C1=CC=CC=C1 | C21H21N3O6S
